US08119806B2
Methyl (1R,3R,4R)-3-tert-butoxy-4-hydroxy-cyclopentanecarboxylate
Methyl (3R,4R)-3,4-dihydroxycyclopentanecarboxylate (1.3 g, 8.12 mmol) was added to a suspension of magnesium perchlorate (0.181 g, 0.812 mmol) in with DCM (5 ml). A solution of di-tert-butyl dicarbonate (3.90 g, 17.86 mmol) in 10 ml DCM in an addition funnel was added dropwise to flask at 40° C. (oil bath) and stirred for 3 hr at which time the bubbling stopped. Silica gel TLC (8% IPA/hexane) showed reaction complete. Reaction was quenched with 50 ml water and extracted twice with DCM. Filtered DCM solution through a pad of silica then washed silica with 10% Acetone/DCM until all product eluted. Concentrated and silica gel chromatography on a 100 g SNAP cartridge with 5-20% IPA/Hex to give the faster eluting regioisomer and slower eluting title compound. 1H NMR (500 MHz, CDCl3) δ 1.23 (s, 9H), δ 1.74-1.88 (m, 3H), δ 2.25-2.34 (m, 1H), δ 2.92-2.99 (m, 1H), δ 3.71 (s, 3H), δ 3.76-3.80 (m, 1H), δ 4.05 (dd. J=5.1 Hz, 1H)

reactant | Methyl (3R,4R)-3,4-dihydroxycyclopentanecarboxylate | 8.12 mmol, 1.3 g | O[C@@H]1CC(C[C@H]1O)C(=O)OC | C7H12O4
reactant | magnesium perchlorate | 0.812 mmol, 0.181 g | Cl(=O)(=O)(=O)[O-].[Mg+2].Cl(=O)(=O)(=O)[O-]
reactant | di-tert-butyl dicarbonate | 17.86 mmol, 3.90 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | IPA hexane | CC(C)O.CCCCCC
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | Methyl (1R,3R,4R)-3-tert-butoxy-4-hydroxy-cyclopentanecarboxylate | C(C)(C)(C)O[C@@H]1C[C@@H](C[C@H]1O)C(=O)OC | C11H20O4
